US07129232B2
To a solution of benzhydryl 7β-[(Z)-2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (500 mg) in N,N-dimethylformamide (1.0 ml) was added sodium iodide (100 mg), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added a solution of 5-amino-4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methylpyrazole (216 mg) in N,N-dimethylformamide (1.0 ml). The whole mixture was stirred at 32° C. for 4 hours. To the resulting reaction mixture were added ethyl acetate (50 ml) and water (50 ml). The aqueous layer was separated, and the organic layer was washed with 10% aqueous sodium trifluoroacetate solution and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to about 5 ml in vacuo. The concentrate was poured into diisopropyl ether (75 ml), and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the resulting solid in methylene chloride (1.8 ml) were added anisole (0.6 ml) and trifluoroacetic acid (1.2 ml). The resulting solution was stirred at room temperature for 4 hours and poured into diisopropyl ether (80 ml). The resulting precipitate was collected by filtration and dried in vacuo to give a crude product (380 mg), which was purified by preparative high-performance liquid chromatography (HPLC) utilizing ODS column. The eluate containing a desired product was concentrated to about 30 ml in vacuo. The concentrate was adjusted to about pH 3 with concentrated hydrochloric acid and chromatographed on Diaion® HP-20 (Mitsubishi Chemical Corporation) eluting with 30% aqueous 2-propanol. The eluate was concentrated to about 30 ml in vacuo and lyophilized to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[3-(2-aminoethyl)ureido]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate (21 mg) as an amorphous solid.

reactant | benzhydryl 7β-[(Z)-2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 500 mg | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C38H43ClN6O9S2
reactant | sodium iodide | 100 mg | [I-].[Na+]
reactant | 5-amino-4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methylpyrazole | 216 mg | NC1=C(C=NN1C)NC(=O)NCCNC(=O)OC(C)(C)C | C12H22N6O3
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[3-(2-aminoethyl)ureido]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate | 21 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)NC(=O)NCCN)N)C)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C23H30N12O8S2
